### PR TITLE
[Merged by Bors] - feat: the composition of continuously polynomial functions is continuously polynomial

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Composition.lean [hunk 1]
```diff
@@ -892,6 +893,80 @@ lemma AnalyticOnNhd.comp_analyticOn {f : F → G} {g : E → F} {s : Set F}
...
+  rcases le_or_gt m c.length with hc | hc
+  · simp [hg.finite _ hc]
+  obtain ⟨j, hj⟩ : ∃ j, n ≤ c.blocksFun j := by
+    contrapose! hi
+    rw [← c.sum_blocksFun]
+    rcases eq_zero_or_pos c.length with h'c | h'c
+    · have : ∑ j : Fin c.length, c.blocksFun j = 0 := by
+        apply Finset.sum_eq_zero (fun j hj ↦ ?_)
+        have := j.2
+        omega
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Composition.lean]: Can `cutsat` solve this, or even `cutsav [j.2]`?

File: Mathlib/Analysis/Analytic/Composition.lean [hunk 2]
```diff
@@ -892,6 +893,80 @@ lemma AnalyticOnNhd.comp_analyticOn {f : F → G} {g : E → F} {s : Set F}
...
+      rw [this]
+      apply mul_pos (by omega) hn
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Composition.lean]: Optional; does this work?
```suggestion
      exact mul_pos (by cutsat) hn
```

File: Mathlib/Analysis/Analytic/Composition.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Analysis/Analytic/Composition.lean]: `cutsat [j.2]` is not accepted as a syntax. `cutsat` also fails without the `have`. I switched to `grind` because, if I understand correctly, `omega` is supposed to be replaced by `grind` in the future. I haven't used `cutsat` because I prefer the approach "one tactic to rule them all" which is easier to learn.

File: Mathlib/Analysis/Analytic/Composition.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/Analysis/Analytic/Composition.lean]: I switched to `grind`.

File: Mathlib/Analysis/Analytic/Composition.lean [hunk 3]
```diff
@@ -892,6 +893,80 @@ lemma AnalyticOnNhd.comp_analyticOn {f : F → G} {g : E → F} {s : Set F}
...
+    rw [← c.sum_blocksFun]
+    rcases eq_zero_or_pos c.length with h'c | h'c
+    · have : ∑ j : Fin c.length, c.blocksFun j = 0 := by
+        apply Finset.sum_eq_zero (fun j hj ↦ ?_)
+        have := j.2
+        grind
+      rw [this]
+      exact mul_pos (by grind) hn
+    · calc
+      ∑ j : Fin c.length, c.blocksFun j
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Composition.lean]: optional
```suggestion
    · calc ∑ j : Fin c.length, c.blocksFun j
```

**Review by grunweg — COMMENTED** [review]
It's surprising how tedious the first long proof is, but I don't see an obvious golf. Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
